US07943658B2
Step A: 2,2-Dimethyl-3-oxo-2,3-dihydro-1H-indene-5-carbonitrile
A slurry of 6-bromo-2,2-dimethyl-2,3-dihydro-1H-inden-1-one (U.S. Pat. No. 5,401,758) (24.97 g, 0.104 mol) and CuCN (18.7 g, 0.208 mol) in NMP (160 mL) was heated at 175° C. for 4 h. After cooling to rt, the reaction mixture was poured into EtOAc (300 mL) and water (200 mL) with stirring. After 15 min, the solid was collected and the filter cake was rinsed with EtOAc (150 mL). The resulting two layers were separated and the aqueous portion was extracted with EtOAc (150 mL×3). The combined organic layer was washed with brine, dried over magnesium sulfate, filtered and concentrated under reduced pressure to give a dark oil, which was divided into three portions and purified by flash chromatography on silica gel (120 g) eluting with EtOAc/Hexane mixtures to provide the title compound as a near colorless oil after concentration in vacuo (17.8 g, 90% yield). HPLC Ret. time: 2.55 min. LCMS MH+ (m/z) 186.31. 1H NMR: (DMSO-d6, 400 MHz): δ 8.13 (s, 1H), 8.11 (d, 1H), 7.78 (d, 1H), 3.10 (s, 2H), 1.15 (s, 6H).

reactant | 6-bromo-2,2-dimethyl-2,3-dihydro-1H-inden-1-one | BrC1=CC=C2CC(C(C2=C1)=O)(C)C | C11H11BrO
reactant | CuCN | 0.208 mol, 18.7 g | C(#N)[Cu]
reactant | EtOAc | 300 mL | CCOC(=O)C | C4H8O2
reactant | water | 200 mL | O | H2O
solvent | NMP | 160 mL | CN1CCCC1=O | C5H9NO
product | 2,2-Dimethyl-3-oxo-2,3-dihydro-1H-indene-5-carbonitrile | 90% yield | CC1(CC2=CC=C(C=C2C1=O)C#N)C | C12H11NO
